US08389508B2
To a solution of methyl 1-{2-[3-(2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylate (D90) (120 mg) in isopropanol (40 mL) and water (10 mL) stirred under nitrogen at room temperature was added a solution of NaOH (9.62 mg) in water in one charge. The reaction mixture was stirred at room temperature overnight. Isopropanol was removed in vacuo. The residue was dissolved in water and acidified with 1N HCl to pH=5. The solvent was removed in vacuo, the residue was dissolved in THF, and filtered. The filtrate was purified by Mass Directed AutoPrep to give 1-{2-[3-(2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylic acid (E41) (12 mg) as a TFA salt (white solid). δH (DMSO-d6, 400 MHz): 1.07 (3H, t), 1.34 (6H, d), 2.70 (2H, m), 2.87 (2H, m), 3.59 (3H, m), 4.29 (4H, m), 4.79 (1H, m), 7.30 (4H, m), 7.82 (1H, s), 7.87 (1H, dd), 7.99 (1H, d), 10.06 (1H, br s), 13.15 (1H, br s). δF (DMSO-d6, 376 MHz): −73.6. MS (ES): C26H29ClN2O3S requires 484. found 485.2 (M+H+).

reactant | methyl 1-{2-[3-(2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylate | 120 mg | ClC=1C=C(C=CC1OC(C)C)C=1SC(=CN1)C=1C(=C(C=CC1)CCN1CC(C1)C(=O)OC)CC | C27H31ClN2O3S
reactant | NaOH | 9.62 mg | [OH-].[Na+]
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | 1-{2-[3-(2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]ethyl}-3-azetidinecarboxylic acid | 12 mg | ClC=1C=C(C=CC1OC(C)C)C=1SC(=CN1)C=1C(=C(C=CC1)CCN1CC(C1)C(=O)O)CC | C26H29ClN2O3S
